US04431653
2-(4-pyridyl)-imidazoline (7.0 g, 0.047 M) and barium mangnate (52.5 g) in CH2Cl2 (500 ml) were refluxed with stirring for 24 hrs. The reaction mixture was then filtered through diatomaceous earth, washed with methylene chloride and then ethylacetate. The combined filtrates were concentrated and crystallized from ethylacetate-petroleum ether to give 4-(1H-imidazol-2-yl)pyridine (4.7 g, 67% yield).

reactant | 2-(4-pyridyl)-imidazoline | 0.047 M, 7.0 g | N1=CC=C(C=C1)C=1NCCN1 | C8H9N3
reactant | barium | 52.5 g | [Ba] | Ba
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-(1H-imidazol-2-yl)pyridine | 4.7 g, 67% yield | N1C(=NC=C1)C1=CC=NC=C1 | C8H7N3
